US06403586B1
Preparation of 4-Ethoxycarbonyl-6-(4-methoxyphenyl)-2-(3-methyl-2-butenyl)-2H-pyridazin-3-one
Using 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and 1-bromo-3-methyl-2-butene as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 87.6%.

reactant | 4-ethoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | C(C)OC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C14H14N2O4
reactant | 1-bromo-3-methyl-2-butene | BrCC=C(C)C | C5H9Br
product | 4-Ethoxycarbonyl-6-(4-methoxyphenyl)-2-(3-methyl-2-butenyl)-2H-pyridazin-3-one | yield of 87.6% | C(C)OC(=O)C=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CC=C(C)C)=O | C19H22N2O4
